US08304436B2
13. 1-(2-{4-[4-(3,4-dimethoxyphenyl)-1-oxo-2,3-diazaspiro[4.4]non-3-en-2-yl]piperidin-1-yl}-2-oxoethyl)pyrrolidine-2,5-dione
Prepared analogously as described for example 1 using 2-[1-(chloroacetyl)piperidin-4-yl]-4-(3,4-dimethoxyphenyl)-2,3-diazaspiro[4.4]non-3-en-1-one (compound A10) and succinimide as starting compounds.

reactant | 2-[1-(chloroacetyl)piperidin-4-yl]-4-(3,4-dimethoxyphenyl)-2,3-diazaspiro[4.4]non-3-en-1-one | ClCC(=O)N1CCC(CC1)N1C(C2(C(=N1)C1=CC(=C(C=C1)OC)OC)CCCC2)=O | C22H28ClN3O4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
product | 1-(2-{4-[4-(3,4-dimethoxyphenyl)-1-oxo-2,3-diazaspiro[4.4]non-3-en-2-yl]piperidin-1-yl}-2-oxoethyl)pyrrolidine-2,5-dione | COC=1C=C(C=CC1OC)C1=NN(C(C12CCCC2)=O)C2CCN(CC2)C(CN2C(CCC2=O)=O)=O | C26H32N4O6
